US05760035
A solution of thionyl chloride (1.7 ml) in chloroform (10 ml) was added dropwise with stirring to a solution of 1-(2-phenoxyethyl)piperidin-3-ylmethanol (5.0 g) in chloroform (70 ml) at 0°-5° C. After the addition the mixture was boiled under reflux for 2.5 hours. The solvent was removed under reduced pressure and the residue was triturated with ether and filtered to give 3-chloromethyl-1-(2-phenoxyethyl)piperidine hydrochloride, m.p. 125°-127° C.

reactant | thionyl chloride | 1.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-phenoxyethyl)piperidin-3-ylmethanol | 5.0 g | O(C1=CC=CC=C1)CCN1CC(CCC1)CO | C14H21NO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloromethyl-1-(2-phenoxyethyl)piperidine hydrochloride | Cl.ClCC1CN(CCC1)CCOC1=CC=CC=C1 | InChI=1S/C14H20ClNO.ClH/c15-11-13-5-4-8-16(12-13)9-10-17-14-6-2-1-3-7-14;/h1-3,6-7,13H,4-5,8-12H2;1H
